US05747518
2) 3-amino-2-(4-chlorophenyl)thiophene
To 20 ml of acetic acid, 1 g of 3-nitro-2-(4-chlorophenyl)thiophene and 0.93 g of iron powder were added and heated for 2 hours at 60° C. The reaction mixture was filtered through a diatomaceous earth (Celite) layer. Ethyl acetate was added to the filtrate and extracted 5 times with a 5% aqueous hydrogen chloride solution. The aqueous layer was neutralized with sodium hydrogen carbonate and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain 0.54 g of the product as an yellow brown crystal. The yield was 62%. 1H-NMR(CDCl3, δ value):3.82(2H, brs), 6.64(1H, d, J=5.1), 7.12(1H, d, J=5.1), 7.34-7.39(2H, m), 7.43-7.48(2H, m)

reactant | 3-nitro-2-(4-chlorophenyl)thiophene | 1 g | [N+](=O)([O-])C1=C(SC=C1)C1=CC=C(C=C1)Cl | C10H6ClNO2S
catalyst | iron | 0.93 g | [Fe] | Fe
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 3-amino-2-(4-chlorophenyl)thiophene | 0.54 g, yield was 62% | NC1=C(SC=C1)C1=CC=C(C=C1)Cl | C10H8ClNS
